US06479490B2
To a solution of 3-(1-methylindol-3-yl)-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione (6.5 g, 19 mmol) in acetone (500 mL), was added TiCl3 (45 mL) in 5 portions at 30 minute interval. The reaction mixture was stirred at room temperature overnight and then neuteralized with 10N NaOH. The product was extracted with EtOAc, dried, and concentrated. The crude product was purified on a silica gel column with 3% MeOH in CH2Cl2 to afford 3-(1-methylindol-3-yl)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione (4.9 g, 82.5%).

reactant | 3-(1-methylindol-3-yl)-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione | 19 mmol, 6.5 g | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C19H13N3O4
reactant | NaOH | 10N | [OH-].[Na+]
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 3-(1-methylindol-3-yl)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione | 4.9 g, 82.5% | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)N)=O)=O | C19H15N3O2
